US04561862
Synthesis of 1-Nitro-2-hexene
1-Hexene (125 mL, 1.0 mole) and concentrated nitric acid (90 mL, 2.0 moles) were mixed at room temperature. With rapid stirring the solution was heated to 40° C. for 41/2 hours. With continued stirring the solution was cooled to room temperature and the organic layer separated. It was washed with a saturated sodium chloride solution then dried over magnesium sulfate. After filtering, vacuum distillation removed unreacted 1-hexene leaving one product, 1-nitro-2-hexene in 20.5% yield. This desired product was confirmed by IR and gas chromatography (GC) analysis.

reactant | 1-Hexene | 1.0 mole, 125 mL | C=CCCCC | C6H12
reactant | nitric acid | 2.0 moles, 90 mL | [N+](=O)(O)[O-] | HNO3
product | 1-Nitro-2-hexene | 20.5% yield | [N+](=O)([O-])CC=CCCC | C6H11NO2
